US04000275
6-Ethylbenzimidazo[2,1-b]quinazolin-12(6H)one is prepared with benzimidazo[2,1-b]quinazolin-12(6H)one and ethyl bromide.

reactant | benzimidazo[2,1-b]quinazolin-12(6H)one | C1=C2C(N3C(=NC2=CC=C1)NC1=C3C=CC=C1)=O | C14H9N3O
reactant | ethyl bromide | C(C)Br | C2H5Br
product | 6-Ethylbenzimidazo[2,1-b]quinazolin-12(6H)one | C(C)N1C2=C(C=CC=C2)N2C1=NC1=CC=CC=C1C2=O | C16H13N3O
